Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___ placement of drain

 
History of Present Illness:
___ is a ___ who is presenting here to the ED
w/ a ~3 day hx of worsening lower abd discomfort and abd
distension. He says it feels like "gas," and has never had these
sx before. He endorses some chills and n/v, and at least 2 days
of watery diarrhea. He was in ___ for business but returned today
and presented here for further evaluation. He denies f/s,
lightheadedness and/or dizziness, chest pain, SOB, blurry 
vision,
h/a's, BRBPR, melena, difficulty urinating, arthralgias,
myalgias, or skin changes; ROS is o/w -ve except as noted above.
Here labs show WBC 17.___/P was obtained which showed
perforated appendicitis, for which we were consulted.

 
Past Medical History:
HLD
 
Social History:
___
Family History:
no fam hx of colon CA or IBD

 
Physical Exam:
ADMISSION
Phys Ex:
VS - 100.5 93 131/64 18 97% RA 
Gen - NAD
CV - RRR
Pulm - non-labored breathing, no resp distress, satting
adequately on RA
Abd - soft, moderately distended, RLQ ttp w/ guarding, no
rebound, -ve Rovsing's, -ve psoas, -ve obturator
MSK & extremities/skin - no leg swelling observed b/l

DISCHARGE
Gen - NAD
CV - RRR
Pulm - non-labored breathing, no resp distress, satting
adequately on RA
Abd - soft, nondistended, ___ drain in place, NTTP

 
Pertinent Results:
___ 04:55PM   WBC-17.4* RBC-3.65* HGB-11.7* HCT-34.4* 
MCV-94 MCH-32.1* MCHC-34.0 RDW-14.4 RDWSD-50.9*

CTAP ___:
Acute appendicitis with necrotic perforated appendix with 
appendicolith and 
extensive surrounding phlegmon with adjacent colonic 
inflammation. 

 
Brief Hospital Course:
This is a ___ man who presented with abdominal pain found to 
have perforated appendicitis on CTAP. The patient was medically 
managed. Repeat CTAP showed interval development of RLQ 
collection, for which an ___ drain was placed. The patient has 
follow up with ACS as an outatient. He is finishing a 14 day 
total course of antibiotics.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Minocycline 50 mg PO Q24H 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 9 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 2 tablet(s) by 
mouth twice a day Disp #*16 Tablet Refills:*0 
2.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*15 Tablet Refills:*0 
3.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
4.  Minocycline 50 mg PO Q24H  
5.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Perforated Appendicitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Acute Care Surgery on ___ with 
abdominal pain and found to have a perforated appendicitis. You 
were treated with antibiotics. An ___ drain was placed to help 
manage a localized abscess (bacterial collection). 

You are now safe for discharge. You should take the prescribed 
antibiotics for 8 more days. 

You should follow up with the Acute Care Service in ___ weeks. 
You need to empty your drain on a daily basis. A ___ nurse has 
been arranged to visit you at home to help with this. 

Drain Care:

 *Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).

 *Maintain suction of the bulb.

 *Note color, consistency, and amount of fluid in the drain. 
Call the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character.

 *Be sure to empty the drain frequently. Record the output, if 
instructed to do so.

 *You may shower; wash the area gently with warm, soapy water.

 *Keep the insertion site clean and dry otherwise.

 *Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.

 *Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

 *You experience new chest pain, pressure, squeezing or 
tightness.

 *New or worsening cough, shortness of breath, or wheeze.

 *If you are vomiting and cannot keep down fluids or your 
medications.

 *You are getting dehydrated due to continued vomiting, 
diarrhea, or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat, or feeling dizzy or faint when standing.

 *You see blood or dark/black material when you vomit or have a 
bowel movement.

 *You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

 *You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

 *Any change in your symptoms, or any new symptoms that concern 
you.

Please note the following discharge instructions: 
 
Followup Instructions:
___